US06987114B1
1-(3,5-Dimethoxybenzyl)-5-isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione and 3,5-dimethoxybenzyl bromide were reacted by the same way with the example 1 to obtain the titled compound (275 mg, yield: 64.8%).

reactant | 5-Isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1OC1=CC(=CC(=C1)C)C)=O)=O | C15H18N2O3
reactant | 3,5-dimethoxybenzyl bromide | COC=1C=C(CBr)C=C(C1)OC | C9H11BrO2
product | 1-(3,5-Dimethoxybenzyl)-5-isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | 275 mg, yield: 64.8% | COC=1C=C(CN2C(NC(C(=C2OC2=CC(=CC(=C2)C)C)C(C)C)=O)=O)C=C(C1)OC | C24H28N2O5
